data/mechanisms/records/IMS8-EQ8.43b.json
{"mechanism_id": "IMS8-EQ8.43b", "species": [{"species_id": "carbonyl_radical_cation", "mapped_smiles": "[CH3:1][CH2:2][CH:3]=[O+:4]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ethyl_cation", "mapped_smiles": "[CH3:1][CH2+:2]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "formyl_radical", "mapped_smiles": "[CH:3]=[O:4]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["carbonyl_radical_cation"]}, {"state_id": "state_products", "species_ids": ["ethyl_cation", "formyl_radical"]}], "steps": [{"step_id": "step_inductive_cleavage", "from_state": "state_precursor", "to_state": "state_products", "step_class": "inductive_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "atom", "atom_maps": [3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "atom", "atom_maps": [4]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_inductive_cleavage", "support_type": "textbook_proposed", "locator": {"page": 173, "equation": "8.43", "figure": null, "panel": null, "section": "8.8 Charge-site reactions (one bond cleaved without rearrangement)"}, "confidence": 0.65, "curator_note": "GENERIC SCHEME, lower (unsaturated / pi-ionized) form of eq 8.43. The book prints the odd-electron ion as AB-C=D with the charge+radical (+.) on the doubly-bonded terminal atom D and a single arrow labelled 'i' to AB+ + .CD; no atoms, m/z or intensities are given. Instantiation chosen by the curator: the pi-ionized propanal radical cation CH3CH2-CH=O(+.) (map 3 = C-of-scheme = carbonyl carbon, map 4 = D = O carrying charge+radical; AB = ethyl, maps 1-2). Inductive (charge-site) cleavage of the CH2-CH sigma bond (bond 2-3) gives the ethyl cation CH3CH2+ (AB+) and the neutral formyl radical .CH=O (.CD), the standard localized radical form with the odd electron on C and the C=O double bond retained. ARC COUNT: the book draws 1 arc (a single full/double-barbed charge-site arrow from the AB-C sigma bond toward the ionized C=D). That single drawn arc is a charge-controlled simplification; move <1> and move <2> are BOTH implicit and neither is literally drawn as a fishhook. Electron balance to a NEUTRAL radical + even-electron cation requires the breaking sigma pair to split homolytically: move <1> routes one sigma electron to C (map 3) to become the odd electron of the formyl radical, and move <2> routes the other sigma electron to O (map 4) to pair the O radical into a lone pair (O goes +. -> neutral); the ethyl fragment leaves with no electrons as AB+. The arrow-checker flags atom 4 as a soft 'lone pair rather than radicals' note, which is exactly this pairing."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 58.0413, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_ab_cation", "species_id": "ethyl_cation", "step_id": "step_inductive_cleavage", "observed_mz": 29.0386, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.4}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-27T00:00:00Z", "modified_at": "2026-07-27T00:00:00Z"}}
